US05371096
To a solution of 37.23 g (0.157 mol) of the crude 2-hydroxy-3-(3-hydroxy-1-propyl)-4-(3-pyridyl)-γ-butyrolactone in 170 ml of dimethylformide are added 21.4 g (0.157 mol) of imidazole and 23.63 g (0.157 mol) of t-butyldiphenylchlorosilane and the mixture is stirred at room temperature overnight. The mixture is diluted with ethyl acetate and washed with water (2×), brine, dried (MgSO4) and evaporated. The residue is purified by flash chromatography from silica gel using ethyl acetate:methylene chloride (1:1) as eluent to give 3-[3-(t-butyldiphenylsilyloxy)-1-propyl]-2-hydroxy-4-(3-pyridyl)-γ-butylactone which crystallizes from ether-petroleum ether and having mp 81°-84° C. and elemental analysis: C, 61,52; H, 8.21; N, 3.91 (theory, C, 61.50; H, 8.32; N, 3.98).

reactant | 2-hydroxy-3-(3-hydroxy-1-propyl)-4-(3-pyridyl)-γ-butyrolactone | 0.157 mol, 37.23 g | OC1C(=O)OC(C1CCCO)C=1C=NC=CC1 | C12H15NO4
reactant | imidazole | 0.157 mol, 21.4 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylchlorosilane | 0.157 mol, 23.63 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(t-butyldiphenylsilyloxy)-1-propyl]-2-hydroxy-4-(3-pyridyl)-γ-butylactone | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC(C(C)O)(CC=1C=NC=CC1)CC(C)=O | C31H41NO3Si
